US04526971
N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)hexamethylenediamine
A mixture of 4-amino-2,2,6,6-tetramethylpiperidine and 1,6-hexanediol in a molar ratio of 4:1 is reacted in a 1-liter shaft oven which is filled with 500 ml of reduced copper chromite catalyst (Harshaw Cu 1107 of Harshaw Chemical Co, DE-5632 Wermelskirchen) at 180° C. and 30 bars of hydrogen hourly.

reactant | 4-amino-2,2,6,6-tetramethylpiperidine | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
reactant | 1,6-hexanediol | C(CCCCCO)O | C6H14O2
reactant | hydrogen | [H][H] | H2
product | N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)hexamethylenediamine | CC1(NC(CC(C1)NCCCCCCNC1CC(NC(C1)(C)C)(C)C)(C)C)C | C24H50N4
